US08084484B2
e) Ethyl 2-(3-amino-4-hydroxyphenyl)propanoate
Ethyl 2-(4-hydroxy-3-nitrophenyl)propanoate (260 mg, 1.09 mmol) in THF (6 mL) and ethanol (6 mL) was slowly added 10% Pd/C (29 mg) at room temperature. The mixture was hydrogenated for 2 hours at 43 psi and then filtered with celite pad and washed with EtOAc. The filtrate was concentrated in vacuo. The residue was purified by column chromatography eluting with n-Hexane/EtOAc=1/1.

reactant | Ethyl 2-(4-hydroxy-3-nitrophenyl)propanoate | 1.09 mmol, 260 mg | OC1=C(C=C(C=C1)C(C(=O)OCC)C)[N+](=O)[O-] | C11H13NO5
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | ethanol | 6 mL | C(C)O | C2H6O
catalyst | Pd/C | 29 mg | [Pd] | Pd
product | Ethyl 2-(3-amino-4-hydroxyphenyl)propanoate | NC=1C=C(C=CC1O)C(C(=O)OCC)C | C11H15NO3
